US07183302B2
3,4-Dihydro-1H-quinazoline-2-thione
To a solution of 2-aminomethyl-phenylamine (6.35 g, 52 mmol) and triethylamine (16.8 ml, 120 mmol) in ether (150 ml) was added dropwise a solution of thiophosgene (4.6 ml, 60 mmol) in ether (40 mL), at −78° C. over 1 h. After warming to rt a precipitate was filtered, washed thoroughly with ether, dissolved in methanol (200 mL) and treated with solid KOH (6.7 g, 120 mmol). The mixture was stirred for 15 min, filtered, and the filtrate was concentrated under reduced pressure to obtaine a residue which was recrystallized from methanol/water to give an off-white solid 7.43 g (87%). 1H NMR (500 MHz, DMSO-D6) δ 4.35 (s, 1H) 6.92 (d, J=7.93 Hz, 1H) 6.96 (m, 1H) 7.08 (d, J=7.32 Hz, 1H) 7.15 (m, 1H) 8.59 (s, 1H) 10.36 (s, 1H). MS (ESI) m/z 165 (MH+); HPLC (Column YMC Xterra OSD 4.6×33 mm S 7) Rt 0.81 min; Purity (96%).

reactant | 2-aminomethyl-phenylamine | 52 mmol, 6.35 g | NCC1=C(C=CC=C1)N | C7H10N2
reactant | triethylamine | 120 mmol, 16.8 ml | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 60 mmol, 4.6 ml | C(=S)(Cl)Cl | CCl2S
reactant | KOH | 120 mmol, 6.7 g | [OH-].[K+]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 3,4-Dihydro-1H-quinazoline-2-thione | 7.43 g, 87% | N1C(NCC2=CC=CC=C12)=S | C8H8N2S
